US05952331
S-Methylisothiourea (22.26 g, 160 mmol) was added to a solution of sodium carbonate (16.9 g, 160 mmol) in water (50 mL) and stirred at room temperature until complete dissolution of the S-methylisothiourea. Ethyl acetoacetate (10.41 g, 80 mmol) was added to the mixture in one portion. After stirring for 60 hours at room temperature, the reaction was neutralized with acetic acid precipitating a white solid. The solid was collected, washed with water, and dried in vacuo to give 4-hydroxy-6-methyl-2-(methylthio)pyrimidine (9.38 g, 75%), m.p. 218-221° C.

reactant | S-Methylisothiourea | 160 mmol, 22.26 g | CSC(N)=N | C2H6N2S
reactant | sodium carbonate | 160 mmol, 16.9 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | Ethyl acetoacetate | 80 mmol, 10.41 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 50 mL | O | H2O
product | 4-hydroxy-6-methyl-2-(methylthio)pyrimidine | 9.38 g, 75% | OC1=NC(=NC(=C1)C)SC | C6H8N2OS
